US06028074
(d) 5-Methyl-7-(2-methyl-2-propenyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6-[5H,7H]-dione
A mixture of 6-hydrazino-3-methyl-1-(2-methyl-2-propenyl)pyrimidine-2,4[1H,3H]-dione (0.575 g) and dimethylformamide dimethylacetal (0.73 ml) was heated at 90° C. for 20 minutes. The mixture was allowed to cool and was directly purified by column chromatography over silica eluting with ethyl acetate: hexane (2:1) and then recrystallisation from ethyl acetate/hexane to give the subtitle compound (0.063 g). Melting point: 232-233° C. MS (EI) 220 (M+) 1H NMR (CDCl3 /DMSO-d6) δ 1.80 (3H, s); 3.39 (3H, s); 4.60 (2H, s); 4.75 (1H, s), 4.89 (1H, s); 8.04 (1H, s); 13.04 (1H, s, br).

reactant | 6-hydrazino-3-methyl-1-(2-methyl-2-propenyl)pyrimidine-2,4[1H,3H]-dione | 0.575 g | N(N)C1=CC(N(C(N1CC(=C)C)=O)C)=O | C9H14N4O2
reactant | dimethylformamide dimethylacetal | 0.73 ml | COC(N(C)C)OC | C5H13NO2
product | 5-Methyl-7-(2-methyl-2-propenyl)-2H-pyrazolo[3,4-d]pyrimidine-4,6-[5H,7H]-dione | 0.063 g | CN1C(N(C=2C(C1=O)=CNN2)CC(=C)C)=O | C10H12N4O2
